US08563717B2
6-Amino-2-(butyloxy)-9-[(1-cyclopentyl-4-piperidinyl)methyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 24 from 2-(butyloxy)-8-(methyloxy)-9-(4-piperidinylmethyl)-9H-purin-6-amine and iodocyclopentane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-(4-piperidinylmethyl)-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1CCNCC1)OC)N | C16H26N6O2
reactant | iodocyclopentane | IC1CCCC1 | C5H9I
product | 6-Amino-2-(butyloxy)-9-[(1-cyclopentyl-4-piperidinyl)methyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CC1CCN(CC1)C1CCCC1)=O | C20H32N6O2
